US09388189B2
a) 4-Chloro-5-((4-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
4-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (110 mg, 0.27 mmol) was treated with 4-methoxybenzenethiol (50 μl, 0.40 mmol), copper(I) iodide (77 mg, 0.40 mmol) and potassium carbonate (74 mg, 0.54 mmol) in 2.2 mL dimethylformamide according to method described in Preparation 86 but stirring the reaction mixture at 50° C. overnight. The residue was purified using SP1® Purification System (0% to 15%, hexane-ethyl acetate) to give 57 mg (43% yield, 85% purity) of the title compound.

reactant | 4-Chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.27 mmol, 110 mg | ClC=1C2=C(N=CN1)N(C=C2I)COCC[Si](C)(C)C | C12H17ClIN3OSi
reactant | 4-methoxybenzenethiol | 0.40 mmol, 50 μl | COC1=CC=C(C=C1)S | C7H8OS
reactant | potassium carbonate | 0.54 mmol, 74 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2.2 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.40 mmol, 77 mg | [Cu]I
product | 4-Chloro-5-((4-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 43% yield | ClC=1C2=C(N=CN1)N(C=C2SC2=CC=C(C=C2)OC)COCC[Si](C)(C)C | C19H24ClN3O2SSi
